US07528129B2
8b) 4-bromo-2-ethyl-6-methyl-phenol
At RT a solution of 12.7 mL (247 mmol) bromine in 10 mL chloroform was added dropwise to a solution of 33.6 g (247 mmol) 2-ethyl-6-methyl-phenol in 350 mL chloroform and the mixture was stirred for 2 h. The reaction mixture was combined with an aqueous NaHSO3 solution and stirred for 20 min. The phases were separated and the organic phase was washed with saturated NaCl solution, dried over Na2SO4 and evaporated down i.vac. Column chromatography (silica gel, Cyc/EtOAc 9:1) yielded the product.

reactant | bromine | 247 mmol, 12.7 mL | BrBr | Br2
reactant | 2-ethyl-6-methyl-phenol | 247 mmol, 33.6 g | C(C)C1=C(C(=CC=C1)C)O | C9H12O
reactant | NaHSO3 | OS(=O)[O-].[Na+]
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-bromo-2-ethyl-6-methyl-phenol | BrC1=CC(=C(C(=C1)C)O)CC | C9H11BrO
